US07071201B2
Example 33: Synthesis of 1-[1-(4-ethylaminophenethyl)piperidin-4-yl]indoline
1-[1-(4-Acetaminophenethyl)piperidin-4-yl]indoline (135 mg) was dissolved in tetrahydrofuran (5 ml). After adding lithium aluminum hydride (28 mg) at room temperature, the resultant mixture was heated under reflux for 2 hr. After adding water, the reaction solution was extracted with ethyl acetate. Then the organic layer was washed with brine and dried over magnesium sulfate. After evaporating the solvent, the obtained residue was purified by NH-silica gel column chromatography (hexane/ethyl acetate system) to give the title compound (40 mg) as an oil.

reactant | 1-[1-(4-Acetaminophenethyl)piperidin-4-yl]indoline | 135 mg | N(C(=O)C)C1=CC=C(CCN2CCC(CC2)N2CCC3=CC=CC=C23)C=C1 | C23H29N3O
reactant | lithium aluminum hydride | 28 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-[1-(4-ethylaminophenethyl)piperidin-4-yl]indoline | 40 mg | C(C)NC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=CC=C23)C=C1 | C23H31N3
